US05773663
c) 2'-n-Butoxy-2,6-dichloro-3',4'-dimethoxy-6'-methylbenzophenone (Compound 187)
A mixture of 2,6-dichloro-3',4'-dimethoxy-2'-hydroxy-6'-methyl-benzophenone, potassium salt (1.13 g; 3 mmol), 1-bromobutane (0.69 g, 5 mmol) and dimethyl formamide (5 ml) are stirred at 100° C. for 8 h, and concentrated in vacuo. The residue is dissolved by shaking with a toluene/water mixture, after separation, the organic layer is collected washed with water and dried. After addition of silica gel (5 g), the solvent is evaporated. A flash chromatography column is packed with silica gel (25 g) and the charged silica gel is layered on top of that. Elution with petrol ether/ethyl acetate (95/5, 500 ml) gives the title compound, 0.82 g, (69% y) as colourless crystals, mp. 70° C.

reactant | 2,6-dichloro-3',4'-dimethoxy-2'-hydroxy-6'-methyl-benzophenone | ClC1=C(C(=O)C2=C(C(=C(C=C2C)OC)OC)O)C(=CC=C1)Cl | C16H14Cl2O4
reactant | potassium | 3 mmol, 1.13 g | [K] | K
reactant | 1-bromobutane | 5 mmol, 0.69 g | BrCCCC | C4H9Br
solvent | dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
product | 2'-n-Butoxy-2,6-dichloro-3',4'-dimethoxy-6'-methylbenzophenone | C(CCC)OC1=C(C(=CC(=C1OC)OC)C)C(C1=C(C=CC=C1Cl)Cl)=O | C20H22Cl2O4
